US09447106B2
To a solution of (E)-N-(3-(3-(dimethylamino)acryloyl)phenyl)acetamide (46 mg, 0.2 mmol) in HOAc (5 mL) was added 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (55 mg, 0.2 mmol). The mixture was stirred at 118° C. for 4 hr. Then the reaction mixture was concentrated to a residue and partitioned between ethyl acetate (100 mL) and brine (100 mL). Organic layer was separated, washed with brine (2×100 mL), dried over sodium sulfate and concentrated to afford 80 mg (90%) of N-(3-(3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)acetamide as a colorless oil. MS (ESI) m/e [M+1]+ 446.

reactant | (E)-N-(3-(3-(dimethylamino)acryloyl)phenyl)acetamide | 0.2 mmol, 46 mg | CN(/C=C/C(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 0.2 mmol, 55 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
product | N-(3-(3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)phenyl)acetamide | 80 mg, 90% | C(#N)C=1C(=NN2C1N=CC=C2C=2C=C(C=CC2)NC(C)=O)C2=CC=C(C=C2)OC2=CC=CC=C2 | C27H19N5O2
